US05767131
A suspension of 4-nitrobenzaldehyde (18.3 g, 0.118 mol), 2-cyanoethyl propionylacetate (20.0 g, 0.118 mol), piperidine (503 mg, 5.91 mmol) and acetic acid (355 mg, 5.91 mmol) in 230 ml of 2-propanol was stirred at r.t. for 48 hrs. Reaction mixture was filtered, the solid collected was dried in air to give 2-[(4-nitrophenyl)methylene]-3-oxopentanoic acid 2-cyanoethyl ester as a white powder (31.7 g, 89%). A solution of 2-[(4-nitrophenyl)methylene]-3-oxopentanoic acid 2-cyanoethyl ester (14.72 g, 48.7 mmol) and benzyl 3-aminocrotonate (10.00 g, 48.7 mmol) in 150 ml of EtOH was refluxed for 36 hrs. After solvent was removed, the residue was dissolved in 250 ml of CHCl3 washed with water (2×100 ml) and dried over Na2SO4. After filtration and removal of solvent, 3-benzyloxycarbonyl-5-(2-cyanoethoxy)carbonyl-2,6-diethyl-1,4-dihydro-4-(4-nitrophenyl)pyridine was obtain as a yellow oil (23.0 g, 96%).

reactant | 4-nitrobenzaldehyde | 0.118 mol, 18.3 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | 2-cyanoethyl propionylacetate | 0.118 mol, 20.0 g | C(CC)(=O)CC(=O)OCCC#N | C8H11NO3
solvent | 2-propanol | 230 ml | CC(C)O | C3H8O
catalyst | piperidine | 5.91 mmol, 503 mg | N1CCCCC1 | C5H11N
catalyst | acetic acid | 5.91 mmol, 355 mg | C(C)(=O)O | C2H4O2
product | 2-[(4-nitrophenyl)methylene]-3-oxopentanoic acid 2-cyanoethyl ester | 31.7 g, 89% | C(#N)CCOC(C(C(CC)=O)=CC1=CC=C(C=C1)[N+](=O)[O-])=O | C15H14N2O5
